US04855399
The compound 3-(diphenylphosphino)propanesulfonic acid was produced by the following procedure. To a solution of 3.8 g of sodium in 500 ml of liquid ammonia in a stirred reaction vessel maintained at -78° C. by cooling, 21.8 g of triphenylphosphine was added. After 30 minutes, 4.3 g of ammonium chloride was added and after an additional 30 minutes, 15 g of sodium 3-chloropropanesulfonate was added. The cooling was stopped and 400 ml of tetrahydrofuran was added to the reaction mixture. After the ammonia was evaporated, the mixture was refluxed for some time and then evaporated. The residue thereby obtained was washed with hot ethanol and the product was dried in vacuo to yield a mixture of sodium 3-(diphenylphosphino)propanesulfonate and sodium chloride. The mixture was treated with aqueous trifluoroacetic acid to afford the 3-(diphenylphosphino)propanesulfonic acid.

reactant | sodium | 3.8 g | [Na] | Na
reactant | ammonia | N | H3N
reactant | triphenylphosphine | 21.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ammonium chloride | 4.3 g | [Cl-].[NH4+]
reactant | sodium 3-chloropropanesulfonate | 15 g | ClCCCS(=O)(=O)[O-].[Na+]
reactant | sodium 3-(diphenylphosphino)propanesulfonate | C1(=CC=CC=C1)P(CCCS(=O)(=O)[O-])C1=CC=CC=C1.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 3-(diphenylphosphino)propanesulfonic acid | C1(=CC=CC=C1)P(CCCS(=O)(=O)O)C1=CC=CC=C1 | C15H17O3PS
